US05753664
2-Mercapto-6,7-dimethoxy-3-methylquinazolin-4-one
A solution of 2-amino-4,5-dimethoxybenzoic acid (20.0 g) and methyl isothiocyanate (7.23 g) in ethanol was refluxed for 30 minutes. The precipitate was collected by filtration to provide the title compound as colorless needles. Yield 11.77 g (47%) 1H-NMR (CDCl3) δ: 3.67(3H,s), 3.85(3H,s), 3.89(3H,s), 6.93(1H,s), 7.31(1H,s).

reactant | 2-amino-4,5-dimethoxybenzoic acid | 20.0 g | NC1=C(C(=O)O)C=C(C(=C1)OC)OC | C9H11NO4
reactant | methyl isothiocyanate | 7.23 g | CN=C=S | C2H3NS
solvent | ethanol | C(C)O | C2H6O
product | 2-Mercapto-6,7-dimethoxy-3-methylquinazolin-4-one | SC1=NC2=CC(=C(C=C2C(N1C)=O)OC)OC | C11H12N2O3S
